US05710106
Preparation of Methyl 6-[(2-chloro-4-pyridyl)oxy]-picolinate
A mixture of 6-[(2-chloro-4-pyridyl)oxy]picolinic acid (28 g, 0.11 mol) and thionyl chloride (50 mL) is refluxed for two hours and concentrated in vacuo to remove residual thionyl chloride. A solution of the resultant acid chloride in ethyl acetate is cooled, treated with triethylamine (55 mL, 0.4 mol) and anhydrous methanol (5.4 mL, 0.13 mol), stirred at room temperature for three hours, and diluted with water. The organic layer is separated, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain a residue. Flash column chromatography of the residue using silica gel and a 1:1 hexane/ethyl acetate solution gives the title product as light green crystals (18.1 g, 62.3%, mp 89° C.). Using essentially the same procedure, the following compounds are obtained:

reactant | 6-[(2-chloro-4-pyridyl)oxy]picolinic acid | 0.11 mol, 28 g | ClC1=NC=CC(=C1)OC1=CC=CC(=N1)C(=O)O | C11H7ClN2O3
reactant | thionyl chloride | 50 mL | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 0.4 mol, 55 mL | C(C)N(CC)CC | C6H15N
reactant | methanol | 0.13 mol, 5.4 mL | CO | CH4O
solvent | water | O | H2O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | Methyl 6-[(2-chloro-4-pyridyl)oxy]-picolinate | 18.1 g, 62.3% | ClC1=NC=CC(=C1)OC1=CC=CC(=N1)C(=O)OC | C12H9ClN2O3
